US06124323
1-[2-(4-hydroxy-3-methylphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride
The title compound was prepared from 2-(4-benzyloxy-3-methylphenoxy)ethyl bromide (385 mg, 1.2 mmol), 4-(4-ethylbenzyl)-4-hydroxypiperidine hydrochloride (290 g, 1.2 mmol) and potassium carbonate (414 mg, 3 mmol) in two steps as white solid (200 mg): mp 90-94° C. (dec.). 1H NMR (CD3OD) 1.641 (m, 2 H), 1.859 (m, 2 H), 2.083 (5, 3 H), 2.224 (s, 3 H), 2.718 (s, 2 H), 3.260-3.423 (m, 6 H), 4.133 (m, 2 H), 6.585 (s, 2 H), 6.668 (s, 1 H), 7.035 (m, 4 H).

reactant | 2-(4-benzyloxy-3-methylphenoxy)ethyl bromide | 1.2 mmol, 385 mg | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)C | C16H17BrO2
reactant | 4-(4-ethylbenzyl)-4-hydroxypiperidine hydrochloride | 1.2 mmol, 290 g | Cl.C(C)C1=CC=C(CC2(CCNCC2)O)C=C1
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(4-hydroxy-3-methylphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride | Cl.OC1=C(C=C(OCCN2CCC(CC2)(CC2=CC=C(C=C2)C)O)C=C1)C | InChI=1S/C22H29NO3.ClH/c1-17-3-5-19(6-4-17)16-22(25)9-11-23(12-10-22)13-14-26-20-7-8-21(24)18(2)15-20;/h3-8,15,24-25H,9-14,16H2,1-2H3;1H
